US20010019995A1
A solution of 2.5 mmol of 1-(7-hydroxyheptyl)-cyclopropene in 5 ml of ether was cooled in an ice bath. Triethylamine (0.44 ml) and 0.21 g (2.7 mmol) of acetyl chloride were added, and the reaction mixture was stirred 1 hour at 5° C. Additional acetyl chloride (0.11 g), ether and triethylamine were added, and the reaction was stirred at 5° C. until GC analysis indicated 95% conversion. The reaction was worked up by adding more ether and washing the organic phase with water, dilute HCl solution (diluted 1M aqueous HCl), potassium carbonate solution (2×), water and brine. The ether phase was dried over magnesium sulfate and stripped. Hexane was added and the reaction was stripped again to give 1-(7-acetoxyheptyl)-cyclopropene.

reactant | 1-(7-hydroxyheptyl)-cyclopropene | 2.5 mmol | OCCCCCCCC1=CC1 | C10H18O
reactant | Triethylamine | 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.7 mmol, 0.21 g | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.11 g | C(C)(=O)Cl | C2H3ClO
solvent | ether | 5 ml | CCOCC | C4H10O
product | 1-(7-acetoxyheptyl)-cyclopropene | C(C)(=O)OCCCCCCCC1=CC1 | C12H20O2
